US07375131B2
b) 5-(1-Phenyl-ethyl)-2-ureido-thiophene-3-carboxylic Acid Amide
5-(1-Phenyl-ethyl)-2-ureido-thiophene-3-carboxylic acid amide was prepared by the same procedure as Example 6b except that 2-amino-5-benzyl-thiophene-3-carboxylic acid amide was replaced with 2-amino-5-(1-phenyl-ethyl)-thiophene-3-carboxylic acid amide to give the above titled compound as a light brown solid (87% yield). LC-MS [M+H]+ m/z 290.

reactant | 2-amino-5-benzyl-thiophene-3-carboxylic acid amide | NC=1SC(=CC1C(=O)N)CC1=CC=CC=C1 | C12H12N2OS
reactant | 2-amino-5-(1-phenyl-ethyl)-thiophene-3-carboxylic acid amide | NC=1SC(=CC1C(=O)N)C(C)C1=CC=CC=C1 | C13H14N2OS
product | 5-(1-Phenyl-ethyl)-2-ureido-thiophene-3-carboxylic Acid Amide | 87% yield | C1(=CC=CC=C1)C(C)C1=CC(=C(S1)NC(=O)N)C(=O)N | C14H15N3O2S
